US07858624B2
(R)-tert-Butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (1.50 g, 3.65 mmol) was dissolved in 7 M NH3 in MeOH, and stirred at rt for 6 h. The mixture was evaporated under reduced pressure to afford the (R)-tert-butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate in quantitative yield. MS: 383 (M+−1)+.

reactant | (R)-tert-Butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 3.65 mmol, 1.50 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H30ClNO5
reactant | NH3 | 7 M | N | H3N
solvent | MeOH | CO | CH4O
product | (R)-tert-butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | quantitative yield | NC(CO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl)=O | C19H27ClN2O4
